US04804665
2-Methoxy-2,8-diazaspiro[4,5]decane-3-thion-1-one.hydrobromide
In an acetic acid solution (5 ml) of 25% hydrogen bromide was dissolved 8-benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-3-thion-1-one (0.5 g), and the solution was left standing at room temperature for 20 minutes. To the solution was added ethyl ether (100 ml), and resulting precipitates were collected by filtration, followed by recrystallization from ethanol to obtain 0.4 g of a pale yellow solid, m.p. 235° to 237° C.

reactant | 8-benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-3-thion-1-one | 0.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC)=S)CC1 | C17H20N2O4S
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-Methoxy-2,8-diazaspiro[4,5]decane-3-thion-1-one.hydrobromide | 0.4 g | Br.CON1C(C2(CC1=S)CCNCC2)=O | InChI=1S/C9H14N2O2S.BrH/c1-13-11-7(14)6-9(8(11)12)2-4-10-5-3-9;/h10H,2-6H2,1H3;1H
